US07074806B2
Synthesis of 2-hydroxy-4-methyl-4-phenyl-2-trifluoromethylpentanoic acid ethyl ester (Method C)
To a room temperature solution of 45 mL (22.5 mmol) of a 0.5 M solution of 2-methyl-2-phenylpropylmagnesium chloride in diethyl ether was added 38 g (22.5 mmol) of ethyl trifluoropyruvate in 10 mL of anhydrous THF. The reaction became slightly warm to the touch and a white precipitate quickly developed. After 2 hours, the reaction was diluted with diethyl ether and quenched with 1 N aqueous HCl. The aqueous layer was separated and extracted with ether. The combined organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo to afford a brown oil. Chromatography on silica gel eluting with hexanes-EtOAc (98:2), afforded the title compound as a clear, colorless oil (4.6 g, 67%).

reactant | 2-methyl-2-phenylpropylmagnesium chloride | CC(C[Mg]Cl)(C)C1=CC=CC=C1
reactant | ethyl trifluoropyruvate | 22.5 mmol, 38 g | FC(C(C(=O)OCC)=O)(F)F | C5H5F3O3
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-hydroxy-4-methyl-4-phenyl-2-trifluoromethylpentanoic acid ethyl ester | C(C)OC(C(CC(C)(C1=CC=CC=C1)C)(C(F)(F)F)O)=O | C15H19F3O3
